### PR TITLE
[Merged by Bors] - feat: covering maps from properly discontinuous actions and discrete subgroups

### PR DESCRIPTION
**Pull request by alreadydone**
---

- [x] depends on: #23236
- [x] depends on: #32681
- [x] depends on: #32693
- [x] depends on: #32691

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Covering.lean [hunk 1]
```diff
@@ -190,3 +191,161 @@ protected theorem FiberBundle.isCoveringMap {F : Type*} {E : X → Type*} [Topol
...
+variable {G} [t : TopologicalSpace G] [d : DiscreteTopology G]
+  [Group G] [MulAction G E] [ContinuousConstSMul G E]
+  {p : E → X} (hp : QuotientMap p) (hpG : ∀ {e₁ e₂}, p e₁ = p e₂ ↔ e₁ ∈ MulAction.orbit G e₂)
+
+/-- If a group `G` acts on a space `E` and `U` is an open subset disjoint from all other
+  `G`-translates of itself, and `p` is a quotient map by this action, then `p` admits a
+  `Trivialization` over the base set `p(U)`. -/
+@[to_additive "If a group `G` acts on a space `E` and `U` is an open subset disjoint from all
+  other `G`-translates of itself, and `p` is a quotient map by this action, then `p` admits a
+  `Trivialization` over the base set `p(U)`."]
```
Comment (alreadydone) [inline Mathlib/Topology/Covering.lean:271]: Exactly the same docstring applies for the additive version here. Is there a way to avoid duplication? Something like an `existing_doc` option?

File: Mathlib/Topology/Covering.lean [hunk 2]
```diff
@@ -190,3 +191,207 @@ protected theorem FiberBundle.isCoveringMap {F : Type*} {E : X → Type*} [Topol
...
+  (hf : QuotientMap f) (hfG : ∀ {e₁ e₂}, f e₁ = f e₂ ↔ e₁ ∈ MulAction.orbit G e₂)
+
+/-- If a group `G` acts on a space `E` and `U` is an open subset disjoint from all other
+  `G`-translates of itself, and `p` is a quotient map by this action, then `p` admits a
+  `Trivialization` over the base set `p(U)`. -/
+@[to_additive "If a group `G` acts on a space `E` and `U` is an open subset disjoint from all
+  other `G`-translates of itself, and `p` is a quotient map by this action, then `p` admits a
+  `Trivialization` over the base set `p(U)`."]
+noncomputable def trivialization_of_smul_disjoint (U : Set E) (open_U : IsOpen U)
+    (disjoint : ∀ g : G, (g • ·) '' U ∩ U ≠ ∅ → g = 1) : Trivialization G f := by
```
Comment (ADedecker) [inline Mathlib/Topology/Covering.lean:273]: In this case I think it's actually easier to build the trivialization rather than working with unions. Indeed the trivialization is just `(g, x) ↦ g • x`, which is continuous and open (see #7809), and you just have to prove that it's a bijection between `G • U` and `f ⁻¹' (f '' U)`.

Comment (ADedecker) [reply Mathlib/Topology/Covering.lean:273]: Also, why not using pointwise notation? I think you'd have better API available.

Comment (alreadydone) [reply Mathlib/Topology/Covering.lean:273]: When you say `(g, x) ↦ g • x`, the first `x` lies in X (downstairs) while the second `x` lies in E (upstairs), but the topology on E and X are not a priori "the same" (local homeomorphism) and the assumption is only that `f : E → X` is a quotient map. So I have to resort to the definition to show the continuity in the direction `G × X → E` (suffices to restrict to fixed `g : G` by my previous PR). I think most of the gymnastics in this proof is showing that preimage of an open set `W` in `E` is `f (g⁻¹ (W ∩ U))`, and that its `f`-preimage is open by writing it as the union of `G`-translates of `W ∩ U`.

This was originally [an even longer proof](https://gist.github.com/alreadydone/40333872e072abc8125dd95d20f07f2c#file-properlydiscontinuous_coveringmap-lean-L38-L104) but I decided to extract `IsOpen.trivialization_discrete` (which can be applied to (maybe purely hypothetical) situations without a group action); a downsize is that the length of these two proofs combined is 15 lines longer than the original one.

I used `(g • ·) '' U` because this is what's used in [ProperlyDiscontinuousSMul](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/ConstMulAction.html#ProperlyDiscontinuousSMul). I haven't looked much into the Pointwise API, but I did use one lemmas that uses pointwise notation, [singleton_mul_mem_nhds_of_nhds_one](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/Group/Basic.html#singleton_mul_mem_nhds_of_nhds_one). If you have golfs that's certainly welcome!

**Comment by digama0** [comment]
Note: I have pushed an update to the lean toolchain because this PR was on a [buggy version](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Potential.20data.20loss.20from.20.60lake.20clean.60.20with.204.2E2.2E0-rc2.2F3/near/397875701) of the toolchain. **WARNING**: checking out old commits of this PR using v4.2.0-rc2 or v4.2.0-rc3 can cause `lake clean` to delete your mathlib folder! If you need to do so, make sure to delete `lakefile.olean` manually before running any `lake` commands.

**Comment by tb65536** [comment]
Could you also add `IsCoveringMap expMapCircle`?

**Comment by alreadydone** [comment]
> Could you also add IsCoveringMap expMapCircle?

I'll take a look! I also have plans to do `exp : C -> C\{0}` and `(. ^ n) : C -> C`, and expMapCircle is the restriction of exp to the preimage of `circle` and should probably follow from something general.

I also think proving `IsCoveringMap` is too weak and I should introduce a IsGaloisCovering predicate that extends [FiberBundle](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/FiberBundle/Basic.html#FiberBundle) and show it implies IsCoveringMap, and show it's equivalent to IsCoveringMap + the group of deck transformations acting transitively on fibers in some other PR.

File: Mathlib/Topology/Covering/AddCircle.lean [hunk 3]
```diff
@@ -0,0 +1,34 @@
...
+import Mathlib.Topology.Instances.AddCircle
+import Mathlib.Topology.Covering.Galois
+
+/-!
+# Basic examples of Galois covering maps
+
+-/
+
+theorem isCoveringMap_coe_addCircle (p : ℝ) : IsCoveringMap ((↑) : ℝ → AddCircle p) :=
+  AddSubgroup.isCoveringMap _
```
Comment (tb65536) [inline Mathlib/Topology/Covering/AddCircle.lean:15]: Could you also add a version for `expMapCircle`?

Comment (tb65536) [reply Mathlib/Topology/Covering/AddCircle.lean:15]: Also, does this generalize to the same generality as `isLocalHomeomorph_coe`?

Comment (alreadydone) [reply Mathlib/Topology/Covering/AddCircle.lean:15]: Actually
```
variable {𝕜 : Type*} [AddCommGroup 𝕜] (p : 𝕜) [LinearOrder 𝕜] [IsOrderedAddMonoid 𝕜]
  [TopologicalSpace 𝕜] [OrderTopology 𝕜] [DiscreteTopology (AddSubgroup.zmultiples p)]
```
suffice and `0 < p`, `[Archimedean 𝕜]` and ` [DenselyOrdered 𝕜]` are not needed.
`[LinearOrder 𝕜] [IsOrderedAddMonoid 𝕜] [OrderTopology 𝕜]` can also be replaced by `[IsTopologicalAddGroup 𝕜]` (which would make this theorem a direct application of `AddSubgroup.isCoveringMap`.

Comment (alreadydone) [reply Mathlib/Topology/Covering/AddCircle.lean:15]: Yeah, we can use [IsCoveringMap.isLocalHomeomorph](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Covering.html#IsCoveringMap.isLocalHomeomorph) and it would only add ~6 imports on top of ~1220. I guess `isLocalHomeomorph` isn't true under weaker conditions than `isCoveringMap`, so that might be it.

Comment (alreadydone) [reply Mathlib/Topology/Covering/AddCircle.lean:15]: For `expMapCircle`, I've proven that `exp : C -> C \ {0}` is a covering map [here](https://github.com/leanprover-community/mathlib4/commit/c224539377c581cbf9fa1373268e44d2f91a4bb7#diff-a676a5b63486aa7ef960d2f8f1da7905e0094b28507f44322ccbd6009d34dc6cR17) and I'm also able to restrict a covering to a subspace, but I still need pre/post-composing covering maps with homeomorphisms.

**Comment by ADedecker** [comment]
I'm really sorry, I completely forgot I self-assigned this... I don't have time for it in the near future and I don't want to block something this important any further, so I'm removing my assignment.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Topology/Instances/AddCircle/Defs.lean [hunk 4]
```diff
@@ -534,14 +528,29 @@ theorem card_addOrderOf_eq_totient {n : ℕ} :
       n.totient_eq_card_lt_and_coprime]
     simp only [Nat.gcd_comm]
 
+omit [Fact (0 < p)]
+
+theorem finite_torsion {n : ℕ} (hn : 0 < n) : { u : AddCircle p | n • u = 0 }.Finite := by
+  wlog hp : 0 < p generalizing p
+  on_goal 2 =>
+    have := Fact.mk hp
```
Comment (grunweg) [inline Mathlib/Topology/Instances/AddCircle/Defs.lean]: Here's how I'd write this. This is subjective, so feel free to accept or reject this as you choose.
```suggestion
  wlog hp : 0 < p generalizing p; swap
  · have := Fact.mk hp
```

File: Mathlib/Topology/Covering.lean (hunk 2 above)
Comment (ADedecker) [reply Mathlib/Topology/Covering.lean]: I forgot that I had left this comment, and I think it was stupid indeed. Sorry for the time lost...

File: Mathlib/Topology/Instances/AddCircle/Defs.lean [hunk 5]
```diff
@@ -534,14 +528,29 @@ theorem card_addOrderOf_eq_totient {n : ℕ} :
...
+  obtain rfl | hp := eq_or_lt_of_not_gt hp
+  · refine (Set.finite_singleton 0).subset fun u hu ↦ ?_
+    obtain ⟨u, rfl⟩ := QuotientAddGroup.mk_surjective u
+    rw [Set.mem_setOf, ← coe_nsmul] at hu
+    rw [Set.mem_singleton_iff]
+    rw [QuotientAddGroup.eq_zero_iff, zmultiples_zero_eq_bot] at hu ⊢
+    exact (_root_.nsmul_eq_zero_iff hn.ne').mp hu
+  dsimp only [AddCircle] at this ⊢
+  convert ← this (-p) (neg_pos.mpr hp) using 1
+  · rw [zmultiples_neg]
```
Comment (grunweg) [inline Mathlib/Topology/Instances/AddCircle/Defs.lean]: Small golf
```suggestion
  convert ← this (-p) (neg_pos.mpr hp) using 1
  · simp [AddCircle, zmultiples_neg]
```

File: Mathlib/Topology/Instances/AddCircle/Defs.lean [hunk 6]
```diff
@@ -534,14 +528,29 @@ theorem card_addOrderOf_eq_totient {n : ℕ} :
...
+  exact congr_arg_heq (fun H ↦ {u : 𝕜 ⧸ H | n • u = 0}) zmultiples_neg
```
Comment (grunweg) [inline Mathlib/Topology/Instances/AddCircle/Defs.lean]: This uses an equality of types, which always makes me nervous. Can you say why you chose this proof/why there is no better way?

**Review by grunweg — COMMENTED** [review]
I looked at the change to `AddCircle/Defs.lean`, and have mostly minor comments.

File: Mathlib/Topology/Instances/AddCircle/Defs.lean (hunk 4 above)
Comment (alreadydone) [reply Mathlib/Topology/Instances/AddCircle/Defs.lean]: Thanks, I like this too!

File: Mathlib/Topology/Instances/AddCircle/Defs.lean (hunk 6 above)
Comment (alreadydone) [reply Mathlib/Topology/Instances/AddCircle/Defs.lean]: It's simply the easiest way; I think you'd agree that the argument is mathematically sound, just Lean's dependent type system making it slightly awkward. That said, using an isomorphism doesn't end up too bad too; do you like this version better?
```
  refine .of_preimage ?_ (QuotientAddGroup.quotientAddEquivOfEq zmultiples_neg).surjective
  convert this _ (neg_pos.mpr hp)
  ext; dsimp; rw [← map_nsmul, AddEquiv.map_eq_zero_iff]
```

File: Mathlib/Topology/Instances/AddCircle/Defs.lean [hunk 7]
```diff
@@ -289,12 +289,6 @@ theorem continuousAt_equivIoc (hx : x ≠ a) : ContinuousAt (equivIoc p a) x :=
 @[deprecated (since := "2025-08-29")] noncomputable alias
   partialHomeomorphCoe := openPartialHomeomorphCoe
 
-lemma isLocalHomeomorph_coe [DiscreteTopology (zmultiples p)] [DenselyOrdered 𝕜] :
-    IsLocalHomeomorph ((↑) : 𝕜 → AddCircle p) := by
-  intro a
-  obtain ⟨b, hb1, hb2⟩ := exists_between (sub_lt_self a hp.out)
-  exact ⟨openPartialHomeomorphCoe p b, ⟨hb2, lt_add_of_sub_right_lt hb1⟩, rfl⟩
```
Comment (alreadydone) [inline Mathlib/Topology/Instances/AddCircle/Defs.lean:296]: This can't yet be moved if I open another PR just for this file.

Comment (grunweg) [reply Mathlib/Topology/Instances/AddCircle/Defs.lean:296]: Sure! What I'm really asking is "are there parts of this PR which can be split out"? I'm happy to review relatively self-contained sub-parts, such as the file changes below. You know this PR much better than me, so you're very welcome to choose any working interpretation of my question :-)

Comment (alreadydone) [reply Mathlib/Topology/Instances/AddCircle/Defs.lean:296]: I split out #32691. Everything else about AddCircle depends on the main chunk of the PR.

File: Mathlib/Topology/Instances/AddCircle/Defs.lean (hunk 6 above)
Comment (ocfnash) [reply Mathlib/Topology/Instances/AddCircle/Defs.lean]: I commented [elsewhere](https://github.com/leanprover-community/mathlib4/pull/32691#discussion_r2607705691) about this but I wanted to highlight that "easiest" is only what we want if it is interpreted as "most maintainable" (at least to some extent).

File: Mathlib/Topology/Algebra/ConstMulAction.lean [hunk 8]
```diff
@@ -467,13 +467,42 @@ attribute [to_additive] ProperlyDiscontinuousSMul
 export ProperlyDiscontinuousSMul (finite_disjoint_inter_image)
 export ProperlyDiscontinuousVAdd (finite_disjoint_inter_image)
 
+section
+
+variable (Γ T : Type*) {T} [TopologicalSpace T] [SMul Γ T] [ProperlyDiscontinuousSMul Γ T] (x : T)
```
Comment (ocfnash) [inline Mathlib/Topology/Algebra/ConstMulAction.lean]: The current line generates a shadowed `T`. Admittedly this is harmless but let's change to:
```suggestion
variable (Γ : Type*) {T : Type*}
  [TopologicalSpace T] [SMul Γ T] [ProperlyDiscontinuousSMul Γ T] (x : T)
```

File: Mathlib/Topology/Algebra/ConstMulAction.lean [hunk 9]
```diff
@@ -467,13 +467,42 @@ attribute [to_additive] ProperlyDiscontinuousSMul
...
+
+@[to_additive] lemma ProperlyDiscontinuousSMul.finite_stabilizer' : {γ : Γ | γ • x = x}.Finite := by
+  simp_rw [←mem_singleton_iff, ←singleton_inter_nonempty, ←image_singleton]
+  exact finite_disjoint_inter_image isCompact_singleton isCompact_singleton
+
+@[to_additive] lemma ProperlyDiscontinuousSMul.disjoint_image_nhds
```
Comment (ocfnash) [inline Mathlib/Topology/Algebra/ConstMulAction.lean]: There's no disjoint in the term. How about something like:
```suggestion
@[to_additive] lemma ProperlyDiscontinuousSMul.exists_nhd_image_smul_eq_self
```
and maybe also add the version which captures how we usually think about this:
```lean
@[to_additive] lemma ProperlyDiscontinuousSMul.exists_nhd_disjoint_image
    [T2Space T] [LocallyCompactSpace T] [ContinuousConstSMul Γ T] (x : T) :
    ∃ U ∈ 𝓝 x, ∀ γ : Γ, γ • x ≠ x → Disjoint ((γ • ·) '' U) U := by
```

File: Mathlib/Topology/Algebra/Group/Pointwise.lean [hunk 10]
```diff
@@ -312,6 +312,17 @@ theorem exists_closed_nhds_one_inv_eq_mul_subset {U : Set G} (hU : U ∈ 𝓝 1)
   _ ⊆ V * V := mul_subset_mul hW hW
   _ ⊆ U := hV
 
+@[to_additive] lemma Subgroup.disjoint_nhds_of_isDiscrete
```
Comment (ocfnash) [inline Mathlib/Topology/Algebra/Group/Pointwise.lean]: Here too we need a name that doesn't use `disjoint` since it's not in the term

File: Mathlib/Topology/Covering/Basic.lean [hunk 11]
```diff
@@ -310,3 +310,66 @@ protected theorem FiberBundle.isCoveringMap {F : Type*} {E : X → Type*} [Topol
     [DiscreteTopology F] [TopologicalSpace (Bundle.TotalSpace F E)] [∀ x, TopologicalSpace (E x)]
     [FiberBundle F E] : IsCoveringMap (π F E) :=
   IsFiberBundle.isCoveringMap fun x => ⟨trivializationAt F E x, mem_baseSet_trivializationAt F E x⟩
+
+/-- Let `f : E → X` be a (not necessarily continuous) map between topological spaces, and let
+  `V` be an open subset of `X`. Suppose that there is a family `U` of disjoint subsets of `E`
+  that covers `f⁻¹(V)` such that for every `i`, (1) `f` is injective on `Uᵢ`, (2) `V` is
+  contained in the image `f(Uᵢ)`, and (3) the open sets in `V` are determined by their preimages
+  in `Uᵢ`. Then `f` admits a `Trivialization` over the base set `V`. -/
+noncomputable def IsOpen.trivialization_discrete (hE : Nonempty E ∨ f.Surjective)
```
Comment (ocfnash) [inline Mathlib/Topology/Covering/Basic.lean]: How about:
```suggestion
noncomputable def IsOpen.trivialization_discrete [Nonempty E] (hE : f.Surjective)
```
and if necessary have a separate `def` (with much fewer assumptions) for the case that `E` is empty?

**Review by ocfnash — COMMENTED** [review]
Just some superficial comments for now, I will return for a real review once you've had time to consider these.

File: Mathlib/Topology/Algebra/ConstMulAction.lean (hunk 9 above)
Comment (alreadydone) [reply Mathlib/Topology/Algebra/ConstMulAction.lean]: The `disjoint` can be considered as inherited from https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/ConstMulAction.html#ProperlyDiscontinuousSMul.finite_disjoint_inter_image ... I'm open to changing the new names though.

File: Mathlib/Topology/Covering/Basic.lean (hunk 11 above)
Comment (alreadydone) [reply Mathlib/Topology/Covering/Basic.lean]: The condition is essentially saying either E is nonempty, or both E and X are empty. I'll see what I can do to keep everything working ...

Comment (alreadydone) [reply Mathlib/Topology/Covering/Basic.lean]: I think I'll change it to `[Nonempty (X → E)]`.

File: Mathlib/Topology/Covering/Quotient.lean [hunk 12]
```diff
@@ -0,0 +1,221 @@
...
+  disjoint (e : E) : ∃ U ∈ 𝓝 e, ∀ g : G, ((g +ᵥ ·) '' U ∩ U).Nonempty → g = 0
+
+/-- A function from a topological space `E` with an action by a discrete group to another
+topological space `X` is a quotient covering map if it is a quotient map, the action is
+continuous and transitive on fibers, and every point of `E` has a neighborhood whose translates
+by the group elements are pairwise disjoint. -/
+@[mk_iff, to_additive]
+structure IsQuotientCoveringMap extends IsQuotientMap f, ContinuousConstSMul G E where
+  apply_eq_iff_mem_orbit {e₁ e₂} : f e₁ = f e₂ ↔ e₁ ∈ MulAction.orbit G e₂
+  disjoint (e : E) : ∃ U ∈ 𝓝 e, ∀ g : G, ((g • ·) '' U ∩ U).Nonempty → g = 1
```
Comment (alreadydone) [inline Mathlib/Topology/Covering/Quotient.lean]: I've assembled these conditions into definition because I'll later show G ≃* π₁(X)/π₁(E) under suitable path connectedness assumptions.

File: Mathlib/Topology/Algebra/Group/Pointwise.lean [hunk 13]
```diff
@@ -312,6 +312,17 @@ theorem exists_closed_nhds_one_inv_eq_mul_subset {U : Set G} (hU : U ∈ 𝓝 1)
   _ ⊆ V * V := mul_subset_mul hW hW
   _ ⊆ U := hV
 
+@[to_additive] lemma IsDiscrete.exists_nhds_eq_one_of_image_inter_nonempty
+    (S : Subgroup G) (hS : IsDiscrete (S : Set G)) :
+    ∃ U ∈ 𝓝 (1 : G), ∀ g ∈ S,
+      ((g * ·) '' U ∩ U).Nonempty ∨ ((· * g) '' U ∩ U).Nonempty → g = 1 := by
```
Comment (ocfnash) [inline Mathlib/Topology/Algebra/Group/Pointwise.lean]: How about we strengthen this to:
```suggestion
    ∃ U ∈ 𝓝 (1 : G), U⁻¹ = U ∧ ∀ g ∈ S,
      ((g * ·) '' U ∩ U).Nonempty → g = 1 := by
```
and add a lemma capturing:
```lean
example (U : Set G) (hU : U = U⁻¹) (g : G) :
    ((g * ·) '' U ∩ U).Nonempty ↔ ((· * g⁻¹) '' U ∩ U).Nonempty := by
  sorry
```
somewhere, potentially with a reference to it from the doc string of this lemma.

File: Mathlib/Topology/Covering/AddCircle.lean [hunk 14]
```diff
@@ -0,0 +1,78 @@
...
+    IsAddQuotientCoveringMap ((↑) : 𝕜 → AddCircle p) (zmultiples p) :=
+  isAddQuotientCoveringMap_of_comm _ DiscreteTopology.isDiscrete
+
+theorem isCoveringMap_coe : IsCoveringMap ((↑) : 𝕜 → AddCircle p) :=
+  (isQuotientCoveringMap_coe p).isCoveringMap
+
+theorem isLocalHomeomorph_coe : IsLocalHomeomorph ((↑) : 𝕜 → AddCircle p) :=
+  (isCoveringMap_coe p).isLocalHomeomorph
+
+example (p : ℝ) : IsCoveringMap ((↑) : ℝ → AddCircle p) := isCoveringMap_coe p
```
Comment (ocfnash) [inline Mathlib/Topology/Covering/AddCircle.lean]: I'd drop this:
```suggestion
```
but I won't object if you have a strong preference to keep it.

File: Mathlib/Topology/Covering/AddCircle.lean [hunk 15]
```diff
@@ -0,0 +1,78 @@
...
+namespace AddCircle
+
+section AddCommGroup
+
+open AddSubgroup
+
+variable {𝕜 : Type*} [AddCommGroup 𝕜] (p : 𝕜) [TopologicalSpace 𝕜] [IsTopologicalAddGroup 𝕜]
+  [DiscreteTopology (zmultiples p)]
+
+theorem isQuotientCoveringMap_coe :
```
Comment (ocfnash) [inline Mathlib/Topology/Covering/AddCircle.lean]:
```suggestion
theorem isAddQuotientCoveringMap_coe :
```

File: Mathlib/Topology/Covering/Basic.lean [hunk 16]
```diff
@@ -310,3 +310,65 @@ protected theorem FiberBundle.isCoveringMap {F : Type*} {E : X → Type*} [Topol
     [DiscreteTopology F] [TopologicalSpace (Bundle.TotalSpace F E)] [∀ x, TopologicalSpace (E x)]
     [FiberBundle F E] : IsCoveringMap (π F E) :=
   IsFiberBundle.isCoveringMap fun x => ⟨trivializationAt F E x, mem_baseSet_trivializationAt F E x⟩
+
+open Function in
+/-- Let `f : E → X` be a (not necessarily continuous) map between topological spaces, and let
+`V` be an open subset of `X`. Suppose that there is a family `U` of disjoint subsets of `E`
+that covers `f⁻¹(V)` such that for every `i`, (1) `f` is injective on `Uᵢ`, (2) `V` is
+contained in the image `f(Uᵢ)`, and (3) the open sets in `V` are determined by their preimages
+in `Uᵢ`. Then `f` admits a `Trivialization` over the base set `V`. -/
```
Comment (ocfnash) [inline Mathlib/Topology/Covering/Basic.lean]: Just whitespace tweaks:
```suggestion
/-- Let `f : E → X` be a (not necessarily continuous) map between topological spaces, and let `V` be
an open subset of `X`. Suppose that there is a family `U` of disjoint subsets of `E` that covers
`f⁻¹(V)` such that for every `i`:

 1. `f` is injective on `Uᵢ`,
 2. `V` is contained in the image `f(Uᵢ)`,
 3. the open sets in `V` are determined by their preimages in `Uᵢ`.

Then `f` admits a `Trivialization` over the base set `V`. -/
```

File: Mathlib/Topology/Covering/Quotient.lean [hunk 17]
```diff
@@ -0,0 +1,222 @@
...
+variable {E X : Type*} [TopologicalSpace E] [TopologicalSpace X] (f : E → X)
+variable (G : Type*) [Group G] [MulAction G E]
+
+open Topology
+
+/-- A function from a topological space `E` with an action by a discrete group to another
+topological space `X` is a quotient covering map if it is a quotient map, the action is
+continuous and transitive on fibers, and every point of `E` has a neighborhood whose translates
+by the group elements are pairwise disjoint. -/
+structure IsAddQuotientCoveringMap (G) [AddGroup G] [AddAction G E]
```
Comment (ocfnash) [inline Mathlib/Topology/Covering/Quotient.lean]: I quite like to make this obvious to the casual glance:
```suggestion
structure IsAddQuotientCoveringMap (G) [AddGroup G] [AddAction G E] : Prop
```

File: Mathlib/Topology/Covering/Quotient.lean [hunk 18]
```diff
@@ -0,0 +1,222 @@
...
+    extends IsQuotientMap f, ContinuousConstVAdd G E where
+  apply_eq_iff_mem_orbit {e₁ e₂} : f e₁ = f e₂ ↔ e₁ ∈ AddAction.orbit G e₂
+  disjoint (e : E) : ∃ U ∈ 𝓝 e, ∀ g : G, ((g +ᵥ ·) '' U ∩ U).Nonempty → g = 0
+
+/-- A function from a topological space `E` with an action by a discrete group to another
+topological space `X` is a quotient covering map if it is a quotient map, the action is
+continuous and transitive on fibers, and every point of `E` has a neighborhood whose translates
+by the group elements are pairwise disjoint. -/
+@[mk_iff, to_additive]
+structure IsQuotientCoveringMap extends IsQuotientMap f, ContinuousConstSMul G E where
```
Comment (ocfnash) [inline Mathlib/Topology/Covering/Quotient.lean]:
```suggestion
structure IsQuotientCoveringMap : Prop extends IsQuotientMap f, ContinuousConstSMul G E where
```

File: Mathlib/Topology/Covering/Quotient.lean [hunk 19]
```diff
@@ -0,0 +1,222 @@
...
+  apply_eq_iff_mem_orbit {e₁ e₂} : f e₁ = f e₂ ↔ e₁ ∈ MulAction.orbit G e₂
+  disjoint (e : E) : ∃ U ∈ 𝓝 e, ∀ g : G, ((g • ·) '' U ∩ U).Nonempty → g = 1
+
+attribute [to_additive] isQuotientCoveringMap_iff
+
+namespace IsQuotientCoveringMap
+
+@[to_additive] theorem isCancelSMul (h : IsQuotientCoveringMap f G) : IsCancelSMul G E where
```
Comment (ocfnash) [inline Mathlib/Topology/Covering/Quotient.lean:47]:
```suggestion
/-- The group action for a quotient covering map is free. -/
@[to_additive] theorem isCancelSMul (h : IsQuotientCoveringMap f G) : IsCancelSMul G E where
```

File: Mathlib/Topology/Covering/Quotient.lean [hunk 20]
```diff
@@ -0,0 +1,222 @@
...
+
+open Topology
+
+/-- A function from a topological space `E` with an action by a discrete group to another
+topological space `X` is a quotient covering map if it is a quotient map, the action is
+continuous and transitive on fibers, and every point of `E` has a neighborhood whose translates
+by the group elements are pairwise disjoint. -/
+structure IsAddQuotientCoveringMap (G) [AddGroup G] [AddAction G E]
+    extends IsQuotientMap f, ContinuousConstVAdd G E where
+  apply_eq_iff_mem_orbit {e₁ e₂} : f e₁ = f e₂ ↔ e₁ ∈ AddAction.orbit G e₂
```
Comment (ocfnash) [inline Mathlib/Topology/Covering/Quotient.lean:30]: I feel like this property deserves to be broken out and a tiny bit of purely algebraic API written about it. I have in mind something along the lines of:
```lean
variable (G : Type*) {X Y : Type*} [Group G] [MulAction G X]

def MulAction.isFoo (f : X → Y) : Prop :=
  ∀ x₁ x₂, f x₁ = f x₂ ↔ x₁ ∈ orbit G x₂

lemma MulAction.bar (f : Quotient (MulAction.orbitRel G X) → Y) :
    Function.Injective f ↔ MulAction.isFoo G (f ∘ Quotient.mk _) := by
  -- Your proof here
```
It could maybe go in the file `Mathlib.GroupTheory.GroupAction.Quotient`. What do you think?

File: Mathlib/Topology/Covering/Quotient.lean (hunk 19 above)
Comment (alreadydone) [reply Mathlib/Topology/Covering/Quotient.lean:47]: Changed to "... group action on the domain of a quotient covering map ..."

File: Mathlib/Topology/Algebra/Group/Pointwise.lean (hunk 13 above)
Comment (alreadydone) [reply Mathlib/Topology/Algebra/Group/Pointwise.lean]: I think if we have the `(g * ·)` version then for symmetry we should also have the `(· * g)` version.
The lemma can be used to deduce one version from the other, and I think if it's used in the proof then it needn't be referenced in the docstring.
I ended up changing the statement of the lemma to
```
@[to_additive] theorem nonempty_image_mulLeft_inv_inter_iff {a : α} :
    ((a⁻¹ * ·) '' s ∩ t).Nonempty ↔ ((· * a) '' s⁻¹ ∩ t⁻¹).Nonempty := by
  rw [← nonempty_inv, inter_inv]; simp_rw [← image_inv_eq_inv, image_image, mul_inv_rev, inv_inv]
```

File: Mathlib/Topology/Covering/Quotient.lean (hunk 20 above)
Comment (alreadydone) [reply Mathlib/Topology/Covering/Quotient.lean:30]: I can't think of a good name for this property, and there's no API of this property that can be extracted from this PR, so I think I won't extract this definition in this PR.

Comment (alreadydone) [reply Mathlib/Topology/Covering/Quotient.lean:30]: Just realized that this property can be phrased as `Setoid.ker f = MulAction.orbitRel G X`; if we use this to develop API in the future there's probably no need to introduce a def.

**Comment by alreadydone** [comment]
> Could you also add `IsCoveringMap expMapCircle`?

@tb65536 thanks to the `homeomorph_comp` lemmas added in #27197 I finally proved this.

File: Mathlib/Topology/Covering/Quotient.lean [hunk 21]
```diff
@@ -0,0 +1,237 @@
...
+      obtain ⟨_, ⟨_, ⟨_, rfl, x, hx, rfl⟩, rfl⟩, g, rfl, y, hy, he⟩ := hs
+      exact ⟨y, ⟨x, hx, mul_left_cancel (he.trans <| mul_assoc ..).symm⟩, hy⟩⟩
+
+omit hf in
+@[to_additive] lemma isQuotientCoveringMap_of_isDiscrete_ker_monoidHom [Group E]
+    [IsTopologicalGroup E] [Group X] {f : E →* X} (hf : IsQuotientMap f) {S : Subgroup E}
+    (disc : IsDiscrete (S : Set E)) (eq : f.ker = S) :
+    IsQuotientCoveringMap f S :=
+  hf.isQuotientCoveringMap_of_subgroup S disc fun {_ _} ↦ by
+    rw [eq_comm, ← mul_inv_eq_one, ← map_inv, ← map_mul, ← eq]; rfl
```
Comment (ocfnash) [inline Mathlib/Topology/Covering/Quotient.lean]: Why not just:
```suggestion
    [IsTopologicalGroup E] [Group X] {f : E →* X} (hf : IsQuotientMap f)
    (disc : IsDiscrete (f.ker : Set E)) :
    IsQuotientCoveringMap f f.ker :=
  hf.isQuotientCoveringMap_of_subgroup f.ker disc fun {_ _} ↦ by
    rw [eq_comm, ← mul_inv_eq_one, ← map_inv, ← map_mul]; rfl
```

File: Mathlib/Topology/Covering/Quotient.lean [hunk 22]
```diff
@@ -0,0 +1,237 @@
...
+    have ⟨g', he⟩ := hfG.mp he
+    rw [← smul_left_cancel_iff g, ← he, disjoint g' ⟨_, ⟨_, h₂, he⟩, h₁⟩]
+    apply one_smul
+  · rintro g x ⟨e, hU, rfl⟩; exact ⟨g⁻¹ • e, by apply (smul_inv_smul g e).symm ▸ hU, pGE _ e⟩
+  · simp_rw [mul_smul, inv_smul_smul]
+
+@[to_additive] lemma isCoveringMapOn_of_smul_disjoint
+    (disjoint : ∀ e : E, ∃ U ∈ 𝓝 e, ∀ g : G, ((g • ·) '' U ∩ U).Nonempty → g • e = e) :
+    IsCoveringMapOn f (f '' {e | MulAction.stabilizer G e = ⊥}) := by
+  letI : TopologicalSpace G := ⊥; have : DiscreteTopology G := ⟨rfl⟩
```
Comment (ocfnash) [inline Mathlib/Topology/Covering/Quotient.lean:121]: Passing thought: it would be nice to have a tactic for this, a bit like how the measure theorists have `borelize`.

File: Mathlib/Topology/Covering/Basic.lean [hunk 23]
```diff
@@ -414,3 +414,69 @@ protected theorem FiberBundle.isCoveringMap {F : Type*} {E : X → Type*} [Topol
...
+    proj_toFun _ _ := rfl }
+  · by_contra h; apply (disjoint h).le_bot
+    · dsimp only; rw [dif_pos (by exact he'.2)]; exact ⟨he'.1, idx_U ..⟩
+  · rwa [Set.inter_comm, ← open_iff _ subset_rfl]
+  · simp_rw [F, Set.prodMk_mem_set_prod_eq, Set.mem_univ, and_true]
+    refine (continuousOn_open_iff open_V).mpr fun W open_W ↦ ?_
+    rw [open_iff i Set.inter_subset_left]
+    convert ((open_iff i subset_rfl).mp open_V).inter open_W using 1
+    refine Set.ext fun e ↦ and_right_comm.trans (and_congr_right fun ⟨hV, hU⟩ ↦ ?_)
+    rw [Set.mem_preimage, dif_pos hV, inj i (inv_U i _) hU (f_inv i _)]
```
Comment (ocfnash) [inline Mathlib/Topology/Covering/Basic.lean:482]: We really should write some API for this definition. At the very least we should have:
```lean
@[simp] lemma IsOpen.baseSet_trivializationDiscrete :
    (IsOpen.trivializationDiscrete U V open_V open_iff inj surj disjoint exhaustive).baseSet = V :=
  rfl
```

File: Mathlib/Topology/Covering/Quotient.lean [hunk 24]
```diff
@@ -0,0 +1,237 @@
...
+variable (hfG : ∀ {e₁ e₂}, f e₁ = f e₂ ↔ e₁ ∈ MulAction.orbit G e₂)
+include hfG
+
+/-- If a group `G` acts on a space `E` and `U` is an open subset disjoint from all other
+`G`-translates of itself, and `p` is a quotient map by this action, then `p` admits a
+`Trivialization` over the base set `p(U)`. -/
+@[to_additive /-- If a group `G` acts on a space `E` and `U` is an open subset disjoint from all
+other `G`-translates of itself, and `p` is a quotient map by this action, then `p` admits a
+`Trivialization` over the base set `p(U)`. -/]
+noncomputable def trivializationOfSMulDisjoint [TopologicalSpace G] [DiscreteTopology G]
```
Comment (ocfnash) [inline Mathlib/Topology/Covering/Quotient.lean:87]: Likewise can we at least characterise the `baseSet` here?

File: Mathlib/Topology/Covering/AddCircle.lean [hunk 25]
```diff
@@ -0,0 +1,76 @@
...
+    convert isQuotientMap_quotient_mk'.comp (affineHomeomorph (n : 𝕜) 0 (mod_cast hn)).isQuotientMap
+    ext x
+    simp_rw [Function.comp_apply, affineHomeomorph_apply, add_zero, ← zsmul_eq_mul]
+    rfl
+  rw [AddMonoidHom.coe_ker, Set.preimage, ← n.sign_mul_natAbs]
+  simp_rw [toAddMonoidHom_apply, Set.mem_singleton_iff]
+  obtain neg | pos := hn.lt_or_gt
+  on_goal 1 => simp_rw [n.sign_eq_neg_one_of_neg neg, neg_mul, one_mul, neg_smul, neg_eq_zero]
+  on_goal 2 => rw [n.sign_eq_one_of_pos pos, one_mul]
+  all_goals simpa using finite_torsion p (n.natAbs_pos.mpr hn)
```
Comment (ocfnash) [inline Mathlib/Topology/Covering/AddCircle.lean]: This is true more generally but I guess we don't think we need to fight for the generalisation now given everything else that's being added.

File: Mathlib/Topology/Covering/Quotient.lean (hunk 21 above)
Comment (alreadydone) [reply Mathlib/Topology/Covering/Quotient.lean]: Since S is coerced to a type I thought it's better to allow this flexibility, because `convert` might create multiple identical equality goals (or possibly introduce additional goals, though probably not heq goal in this case?). However you're right I'm only applying this to `f.ker` so I'm happy to adopt your version.

File: Mathlib/Topology/Covering/Quotient.lean (hunk 22 above)
Comment (alreadydone) [reply Mathlib/Topology/Covering/Quotient.lean:121]: Once the `Discrete` type synonym is introduced (see [Zulip](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/DiscreteTopology.20over.20the.20reals/with/563936583)) we can switch to use it rather than `DiscreteTopology` in the definition of `IsEvenlyCovered/CoveringMap(On)` and then we won't need this step.

File: Mathlib/Topology/Covering/AddCircle.lean (hunk 25 above)
Comment (alreadydone) [reply Mathlib/Topology/Covering/AddCircle.lean]: ~~Oh yeah it probably is true for any discrete subgroup in an abelian group? The proof should be roughly the same (I forgot whether I'm using compactness here).~~

File: Mathlib/Topology/Covering/Quotient.lean (hunk 22 above)
Comment (ocfnash) [reply Mathlib/Topology/Covering/Quotient.lean:121]: I don't think we'd want to use the type synonym, since then the lemma would be more specialised but I do agree having the synonym will be useful in some circumstances.

Comment (alreadydone) [reply Mathlib/Topology/Covering/Quotient.lean:121]: Indeed; I agree that we shouldn't change the definition, but we will be able to take `I = Discrete G` in this proof.

File: Mathlib/Topology/Covering/Basic.lean (hunk 23 above)
Comment (alreadydone) [reply Mathlib/Topology/Covering/Basic.lean:482]: This is actually the job of `@[simps]` ... I'm adding `@[simps source target baseSet]`; the exact definition of the forward/backward functions shouldn't be unfolded IMO.

File: Mathlib/Topology/Covering/AddCircle.lean (hunk 25 above)
Comment (alreadydone) [reply Mathlib/Topology/Covering/AddCircle.lean]: @ocfnash I've generalized this to the setting of `[IsTopologicalRing 𝕜] [T0Space (AddCircle p)]` + `IsUnit (n : 𝕜)`, which applies to e.g. the 2nd multiple map on $\mathbb{Z}[1/2]/\mathbb{Z}$. On the other hand the 2nd multiple map on e.g. $\mathbb{Z}[1/3]/\mathbb{Z}$ isn't open, as shown [by Gemini](https://gemini.google.com/share/0d0e94e83e59). (For quotients by groups IsQuotientMap is equivalent to Continuous+IsOpenMap.) I added several lemmas in other files to make this work so I'd wait for you to give another look before merging this.

Another direction of generalization is to cover e.g. the $n$th power map on tori ($(S^1)^n$). For any abelian topological group the $n$th power map is a continuous homomorphism, and there's an open mapping theorem for locally compact, sigma-compact groups (Corollary 1.7 [here](https://www.mathematik.tu-darmstadt.de/media/mathematik/forschung/preprint/preprints/2480.pdf)) that shows it's an open map if it's surjective; maybe that's the correct generality for some future formalization.

Comment (ocfnash) [reply Mathlib/Topology/Covering/AddCircle.lean]: Thanks for thinking about this so carefully. It was the generalisation by dimension that I had in mind but I was deliberately vague because I'm not sure of exactly the right generalisation (maybe it's compact, connected, commutative, normed groups?).

Anyway I'd have been happy for no generalisation here, I just wanted to raise it as a minor point.
